Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
multinodular goiter causing dysphagia
 
Major Surgical or Invasive Procedure:
total thyroidectomy
 
History of Present Illness:
This patient presented with a large multinodular toxic goiter.

 
Past Medical History:
- HIV on HAART (viral load undetectable)
- CAD
- HTN
- MI s/p stent placement x 3 (___)
- CNS lymphoma (dx ___, on chemotherapy, no neuro deficits)

 
Social History:
___
Family History:
His parents are alive; his mother has pre-diabetes while his 
father has glaucoma and prostate cancer.  He has 6 brothers, one 

of the, has kidney problem.  He has 3 daughters and they are all 

healthy.    
 
Physical Exam:
Gen: NAD, AOx3
HEENT: neck incision clean/dry/intact, without evidence of 
hematoma, steri strips in place
Chest: no labored breathing
Ext: warm, well perfused
Neuro: Sensation grossly intact, moving all extremities equally

 
Pertinent Results:
___ 09:11AM BLOOD Calcium-9.2

 
Brief Hospital Course:
Mr. ___ presented to ___ holding at ___ on ___ 
for a total thyroidectomy, for multinodular goiter causing 
dysphagia. He tolerated the procedure well without complications 
(Please see operative note for further details). After an 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management.

Neuro: Patient takes tramadol at home at baseline. In the 
hospital, pain was well controlled on Tylenol. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was started on a regular diet post operatively, 
which and tolerated well. Patient's intake and output were 
closely monitored.
GU: At time of discharge, the patient was voiding without 
difficulty.
ID: Patient has a history of HIV on HAART. His medications were 
continued while in the hospital. 
Endocrine:POD #1 Calcium level 9.2. 
Wound: surgical site without evidence of hematoma or infection.
On POD#1, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. He will follow-up in the clinic with 
Dr. ___ in 4 weeks. This information was communicated to 
the patient directly prior to discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Lisinopril 5 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO TID 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Ranitidine 150 mg PO DAILY 
6. Elvitegravir/Cobicistat/Emtricitabine/Tenofov ___ 
mg Other DAILY 
7. Pravastatin 80 mg PO QPM 
8. Acyclovir 800 mg PO BID 
9. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
10. Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
11. Pantoprazole 40 mg PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Cyanocobalamin 1000 mcg PO DAILY 
14. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 150 mcg PO DAILY 
RX *levothyroxine 150 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Acyclovir 800 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild  
7.  Lisinopril 5 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Pantoprazole 40 mg PO DAILY  
10.  Pravastatin 80 mg PO QPM  
11.  Ranitidine 150 mg PO DAILY  
12.  Stribild 1 tab Other DAILY  
13.  Stribild ___ mg Other DAILY  
14.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate  
15.  Vitamin D 1000 UNIT PO DAILY  
16. HELD- Fish Oil (Omega 3) 1000 mg PO TID  This medication was 
held. Do not restart Fish Oil (Omega 3) until follow-up 
appointment.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Toxic multinodular goiter (partial substernal).

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a regular diet and may return home to continue 
your recovery. 
You will be discharged home on thyroid hormone replacement and 
calcium supplement, please take as prescribed. Monitor for 
symptoms of low Calcium such as numbness or tingling around 
mouth/fingertips or muscle cramps in your legs. If you 
experience any of these symptoms please call Dr. ___ 
___ for advice or if you have severe symptoms go to the 
emergency room. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You may take acetaminophen 
(Tylenol)and or ibuprofen(Motrin). Please get plenty of rest, 
continue to walk several times per day, and drink adequate 
amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.
Best Wishes,
Your ___ Care Team

 
Followup Instructions:
___